US07709503B2
Intermediate 156: Methyl 5-bromonicotinate-1-oxide
A solution of mCPBA (70%, 4.46 g, 18.11 mmol) in DCM (100 ml) was added to a solution of methyl 5-bromonicotinate (3.11 g, 15.09 mmol) in DCM (100 ml). After stirring at room temperature for several hours, additional mCPBA (6.6 g, 26.77 mmol) was added (in portions) to drive the reaction to completion. After 4 days, the reaction mixture was sequentially washed with a saturated solution of sodium bicarbonate followed by water. The organic phase was dried over MgSO4, and concentrated to dryness. The crude material was purified by chromatography on silica gel using 50% EtOAc/hexanes to 100% EtOAc to give 1.16 g of the title product.

reactant | mCPBA | 18.11 mmol, 4.46 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | methyl 5-bromonicotinate | 15.09 mmol, 3.11 g | BrC=1C=NC=C(C(=O)OC)C1 | C7H6BrNO2
reactant | mCPBA | 26.77 mmol, 6.6 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl 5-bromonicotinate-1-oxide | 1.16 g | BrC=1C=[N+](C=C(C(=O)OC)C1)[O-] | C7H6BrNO3
